US09169270B2
(±)-4-(2-Carboxymethoxy-5-chloro-phenyl)-2-phenyl-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid benzyl ester (C28H23N2O5ClS, MW=534.10)
To a mixture under N2 of (±)-2-bromo-4-(5-chloro-2-ethoxycarbonylmethoxy-phenyl)-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid benzyl ester (63 mg, 0.12 mmol, 1.00 eq.), phenylboronic acid (15 mg, 0.12 mmol, 1.00 eq.) and sodium carbonate (50 mg, 0.47 mmol, 4.00 eq.) in toluene/MeOH/Water 20:4:1 (4 mL), tetrakis(triphenylphosphine) palladium (0) (6.8 mg, 6 μmol, 0.05 eq.) was added and the mixture was stirred at 100° C. for 18 hours. The mixture was allowed to cool to r.t. and concentrated in vacuo. The residue was partitioned between AcOEt (25 mL) and water (25 mL). The layers were separated. The org. phase was washed with sat. aq. NaCl soln. (1×12 mL), dried over MgSO4 and filtered through Celite. The filtrate was concentrated in vacuo. The residue was dissolved in DMF (0.5 mL), 1M aq. NaOH soln. (0.5 mL) was added. The resulting solution was stirred at r.t. for 18 hours. The solution was neutralized with formic acid (1 mL), filtered, and then purified by prep. HPLC (column: Atlantis, 30×75 mm, 10 um, UV/MS, acidic conditions) and concentrated in vacuo to give the desired acid as a white solid.

reactant | (±)-2-bromo-4-(5-chloro-2-ethoxycarbonylmethoxy-phenyl)-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid benzyl ester | 0.12 mmol, 63 mg, 1.00 eq. | C(C1=CC=CC=C1)OC(=O)N1C(C2=C(CC1)N=C(S2)Br)C2=C(C=CC(=C2)Cl)OCC(=O)OCC | C24H22BrClN2O5S
reactant | phenylboronic acid | 0.12 mmol, 15 mg, 1.00 eq. | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 0.47 mmol, 50 mg, 4.00 eq. | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene MeOH Water | 4 mL | C1(=CC=CC=C1)C.CO.O
catalyst | tetrakis(triphenylphosphine) palladium (0) | 6 μmol, 6.8 mg, 0.05 eq. | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | (±)-4-(2-Carboxymethoxy-5-chloro-phenyl)-2-phenyl-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1C(C2=C(CC1)N=C(S2)C2=CC=CC=C2)C2=C(C=CC(=C2)Cl)OCC(=O)O | C28H23ClN2O5S
